US07858621B2
3-(6-tert-Butyl-2-chloro-pyridin-3-yl)-acrylic acid, methyl ester (0.28 μg, 1.11 mmol) was dissolved in DMF, and morpholine (0.15 ml), NEt3 (0.31 ml) and palladium reagent (48 mg) were added stepwise and then the reaction mixture was stirred at 80° C. for 18 hours. The resulting mixture was extracted with EtOAc, and the organic phase was dried over anhydrous MgSO4 and concentrated under reduced pressure. The resulting residue was purified by column chromatography (Hex/EtOAc=8/1) to give 3-(6-tert-butyl-2-morpholin-4-yl-pyridin-3-yl)-acrylic acid methyl ester (76 mg, 0.25 mmol, 22.5%). The methyl ester was dissolved in 1,4-dioxane, treated with water and KOH, stirred and heated at reflux for 18 hrs. The reaction mixture was cooled to room temperature, diluted with water, and then washed with ether. The aqueous phase was acidified with 1N HCl, and then extracted with EtOAc, and the combined organic phase was washed with brine, dried over anhydrous MgSO4 and concentrated under reduced pressure to give 3-(6-tert-butyl-2-morpholin-4-yl-pyridin-3-yl)-acrylic acid (67 mg, 92%).

reactant | 3-(6-tert-Butyl-2-chloro-pyridin-3-yl)-acrylic acid, methyl ester | 1.11 mmol, 0.28 μg | C(C)(C)(C)C1=CC=C(C(=N1)Cl)C=CC(=O)OC | C13H16ClNO2
reactant | morpholine | 0.15 ml | N1CCOCC1 | C4H9NO
reactant | NEt3 | 0.31 ml | CCN(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | palladium | 48 mg | [Pd] | Pd
product | 3-(6-tert-butyl-2-morpholin-4-yl-pyridin-3-yl)-acrylic acid methyl ester | 0.25 mmol, 76 mg, 22.5% | COC(C=CC=1C(=NC(=CC1)C(C)(C)C)N1CCOCC1)=O | C17H24N2O3
